US08471026B2
Methyl 2-(1-methyl-1H-pyrrole-2-carbonyl)-1,2,3,4-tetrahydroisoquinoline-6-carboxylate in a vial was dissolved in MeOH (1 mL) and hydroxylamine potassium salt (0.682 mL, 1.2 mmol; 1.76 M in MeOH) was added. The solution was shaken at rt for 2 h before acetic acid (0.0682 mL, 1.2 mmol) was added to neutralize the reaction. The solvent was then completely evaporated and to the residue was added DMSO (1.2 mL). After filtration, the solution was purified by prep-HPLC to yield N-hydroxy-2-(1-methyl-1H-pyrrole-2-carbonyl)-1,2,3,4-tetrahydroisoquinoline-6-carboxamide (0.0073 g, 16.2%). LC-MS: (AA) ES+ 301; 1H NMR (Methanol-d4, 400 MHz) δ 7.87 (d, J=8.0 Hz, 1H), 7.72 (d, J=8.0 Hz, 1H), 6.86 (t, J=1.8 Hz, 1H), 6.52 (dd, J=3.8, 1.5 Hz, 1H), 6.12 (dd, J=3.8, 2.5 Hz, 1H), 4.96 (s, 2H), 4.07 (t, J=5.8 Hz, 2H), 3.74 (s, 3H), 3.11 (t, J=6.0 Hz, 2H).

reactant | Methyl 2-(1-methyl-1H-pyrrole-2-carbonyl)-1,2,3,4-tetrahydroisoquinoline-6-carboxylate | CN1C(=CC=C1)C(=O)N1CC2=CC=C(C=C2CC1)C(=O)OC | C17H18N2O3
reactant | hydroxylamine potassium salt | 1.2 mmol, 1.76 M, 0.682 mL | [K].NO
reactant | acetic acid | 1.2 mmol, 0.0682 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 1 mL | CO | CH4O
product | N-hydroxy-2-(1-methyl-1H-pyrrole-2-carbonyl)-1,2,3,4-tetrahydroisoquinoline-6-carboxamide | 0.0073 g, 16.2% | ONC(=O)C=1C=C2CCN(CC2=CC1)C(=O)C=1N(C=CC1)C | C16H17N3O3
